US09386769B2
1.26 g 2-chloro-6-methoxy-3-nitropyridine and 10 mL N,N-dimethylformamide (DMF), and 2.00 g of potassium carbonate were added into a 100 mL single neck flask, under stirring at room temperature, 1.20 g of 2-chloro-5-ethylaminomethylthiazole, prepared according to the example 1, in 5.0 mL DMF were added dropwise. After that, the reaction solution was heated to 40-80° C. and then reacted for 3-6 hr. After cooling down, the resulting mixture was added to water (50 mL), then treated by the method according to the example 1 to obtain 1.27 g of 6-methoxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine, as a golden yellow solid, having the content of 98.6%, a yield of 58.3%, and the structure was confirmed by GC-Mass and 1H NMR.

reactant | 2-chloro-6-methoxy-3-nitropyridine | 1.26 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | potassium carbonate | 2.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-ethylaminomethylthiazole | 1.20 g | ClC=1SC(=CN1)CNCC | C6H9ClN2S
reactant | water | 50 mL | O | H2O
solvent | DMF | 5.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-methoxy-N-((2-chlorothiazole-5-yl)methyl)-N-ethyl-3-nitropyridine-2-amine | 1.27 g, yield of 58.3% | COC1=CC=C(C(=N1)N(CC)CC1=CN=C(S1)Cl)[N+](=O)[O-] | C12H13ClN4O3S
